US07834013B2
Racemic-(trans)-N-isopropyl-2-{4-[({4-methyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}methyl)amino]phenyl}cyclopropanecarboxamide (IV-12)
To a mixture of racemic-(trans)-2-{4-[({4-methyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}methyl)amino]phenyl}cyclopropanecarboxylic acid (I-2m) (0.10 g, 0.231 mmol) in dichloromethane (2 mL) and DMF (1 mL) was added HATU (0.13 g, 0.346 mmol). The mixture was stirred for 15 mins followed by addition of isopropylamine (0.04 g, 0.693 mmol). The solution stirred for 6 h after which the dichloromethane was removed via rotavap. Sat. NaHCO3 and ethyl acetate were added and the organic layer separated and washed with H2O, dried over MgSO4, filtered and concentrated. The resulting oil was triterated with Et2O and formed a yellow ppt which was filtered and dried under high vacuum to give the title compound as a yellow powder (0.062 g, 60%). 1H NMR (400 MHz, CDCl3) δ 7.98 (d, J=8.2 Hz, 2H), 7.66 (d, J=8.1 Hz, 2H), 6.96 (d, J=8.1 Hz, 2H), 6.59 (d, J=8.4 Hz, 2H), 5.29 (d, J=7.8 Hz, 1H), 4.45 (s, 2H), 4.15-4.08 (m, 1H), 4.06 (s, 1H), 2.49 (s, 3H), 2.42-2.34 (m, 1H), 1.54-1.51 (m, 1H), 1.44-1.39 (m, 1H), 1.53-1.10 (m, 7H).

reactant | racemic-(trans)-2-{4-[({4-methyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}methyl)amino]phenyl}cyclopropanecarboxylic acid | 0.231 mmol, 0.10 g | CC=1N=C(SC1CNC1=CC=C(C=C1)[C@H]1[C@@H](C1)C(=O)O)C1=CC=C(C=C1)C(F)(F)F | C22H19F3N2O2S
reactant | HATU | 0.346 mmol, 0.13 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | isopropylamine | 0.693 mmol, 0.04 g | C(C)(C)N | C3H9N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | Racemic-(trans)-N-isopropyl-2-{4-[({4-methyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}methyl)amino]phenyl}cyclopropanecarboxamide | 0.062 g, 60% | C(C)(C)NC(=O)[C@H]1[C@@H](C1)C1=CC=C(C=C1)NCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C | C25H26F3N3OS
